US04572912
A mixture of 1.7 g of 7-t-butyl-6-hydroxy-2-methyl-2-(4-nitrophenoxymethyl)chroman-4-one, 1 ml of acetic anhydride and 10 ml of pyridine was allowed to stand at room temperature for 1 day. The reaction mixture was then poured into ice-water and stirred for 2 hours, and the crude substance was extracted with benzene. The organic solution was washed successively with 3N hydrochloric acid, water, a saturated aqueous solution of sodium bicarbonate and water, and dried over anhydrous sodium sulfate. The solvent was evaporated off under reduced pressure, and the crude product thus obtained was recrystallized from a 10:1 by volume mixture of benzene and ethyl acetate, to give the desired 6-acetoxy-7-t-butyl-2-methyl-2-(4-nitrophenoxymethyl)chroman-4-one.

reactant | 7-t-butyl-6-hydroxy-2-methyl-2-(4-nitrophenoxymethyl)chroman-4-one | 1.7 g | C(C)(C)(C)C1=C(C=C2C(CC(OC2=C1)(COC1=CC=C(C=C1)[N+](=O)[O-])C)=O)O | C21H23NO6
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 6-acetoxy-7-t-butyl-2-methyl-2-(4-nitrophenoxymethyl)chroman-4-one | C(C)(=O)OC=1C=C2C(CC(OC2=CC1C(C)(C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)=O | C23H25NO7
